US03976700
a. Preparation of Prenyl Mesityl Oxide (PMO)
To a well stirred mixture of 60 g of 96% sodium hydroxide and 600 g of mesityl oxide was added 3 g of diethylamine, followed by 105 g of 94% 1-chloro-3-methyl-2-butene. The mixture was then heated to 70° C. over a 10 minute period, and the external heat source immediately removed. The mass continued to rise in temperature to 80° C. over a 10 minute period, and was then maintained at between 79° and 82° C. over a 2.3 hour period, with either heating or cooling, as needed. After cooling to 30° C., the mixture was quenched with 250 ml of water and stirred vigorously. The organic phase was then separated and the aqueous layer extracted four times with 20 ml portions of benzene. The organic phases were combined and dried overnight over sodium sulfate. The dried oil phase was then treated with 2 ml of acetic acid prior to distillation. The yield was 123.7 g of the mixture of prenyl mesityl oxide isomers.

reactant | sodium hydroxide | 60 g | [OH-].[Na+]
reactant | mesityl oxide | 600 g | O=C(C)C=C(C)C | C6H10O
reactant | diethylamine | 3 g | C(C)NCC | C4H11N
reactant | 1-chloro-3-methyl-2-butene | 105 g | ClCC=C(C)C | C5H9Cl
product | Prenyl Mesityl Oxide | C(C=C(C)C)CC(=O)C=C(C)C | C11H18O
